US05620991
3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[[(3S)-1-(N-methyl-acetimidoyl)-3-pyrrolidinyl]oxy]phenyl]propionic acid dihydrochloride
2.0 g of 3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionic acid dihydrochloride was dissolved in a solvent mixture of 10 ml of water and 10 ml of acetonitrile. With stirring, to the thus prepared solution was gradually added 20 g of ethyl (N-methyl)acetimidate hydrochloride which has been prepared in accordance with the procedure disclosed in The Journal of Organic Chemistry (vol.33, pp.1679-1681, 1968), while maintaining the pH level of the solution at 8.5 with 2N sodium hydroxide aqueous solution. After distilling off the solvent, the resulting residue was washed with dichloromethane and then subjected to column chromatography using a column packed with a highly porous polymer type synthetic adsorbent (styrene-divinylbenzene polymer: Diaion HP-20) and using a water/acetonitrile mixture as an elution solvent, thereby effecting desalting. Fractions of interest thus pooled were subjected to reversed phase high performance liquid chromatography using a column packed with octadecyl-bonded silica gel. Thereafter, the thus eluted fractions of interest were pooled and then concentrated to dryness by passing through a C1 type of strongly basic ion exchange resin (Diaion SA-10, Nippon Rensui Co., Ltd.). In this way, 370 mg of the title compound was obtained in a solid form.

reactant | 3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionic acid dihydrochloride | 2.0 g | Cl.Cl.C(N)(=N)C1=CC2=C(SC(=C2)CC(C(=O)O)C2=CC=C(C=C2)O[C@@H]2CNCC2)C=C1
reactant | ethyl (N-methyl)acetimidate hydrochloride | 20 g | Cl.CN=C(C)OCC
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[[(3S)-1-(N-methyl-acetimidoyl)-3-pyrrolidinyl]oxy]phenyl]propionic acid dihydrochloride | 370 mg | Cl.Cl.C(N)(=N)C1=CC2=C(SC(=C2)CC(C(=O)O)C2=CC=C(C=C2)O[C@@H]2CN(CC2)C(C)=NC)C=C1 | InChI=1S/C25H28N4O3S.2ClH/c1-15(28-2)29-10-9-20(14-29)32-19-6-3-16(4-7-19)22(25(30)31)13-21-12-18-11-17(24(26)27)5-8-23(18)33-21;;/h3-8,11-12,20,22H,9-10,13-14H2,1-2H3,(H3,26,27)(H,30,31);2*1H/t20-,22?;;/m0../s1
